US04113940
A solution of triethylamine (0.9 g) and dimethylaniline (0.15 g) in dichloromethane (20 ml) was added under stirring and ice-cooling to a suspension of 2,2,2-trichloroethyl 2-methyl-7-amino-3-cephem-4-carboxylate hydrochloride (3.82 g) in dried dichloromethane (80 ml). To the mixture were added cyanoacetic acid (0.85 g) and dicyclohexylcarbodiimide (2.25 g), and the mixture was stirred for 1 hour under ice-cooling. To the mixture was added 5% hydrochloric acid (50 ml), and the mixture was stirred for 30 minutes, after which the organic layer was separated, washed in turn with 5% hydrochloric acid, a saturated sodium bicarbonate aqueous solution and a saturated sodium chloride aqueous solution and then dried over magnesium sulfate. The solvent was distilled off to give colorless powder of 2,2,2-trichloroethyl 2-methyl-7-(2-cyanoacetamido)-3-cephem-4-carboxylate (3.5 g), mp 160° to 165° C. (dec.).

reactant | dimethylaniline | 0.15 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | 2,2,2-trichloroethyl 2-methyl-7-amino-3-cephem-4-carboxylate hydrochloride | 3.82 g | Cl.CC1S[C@H]2N(C(=C1)C(=O)OCC(Cl)(Cl)Cl)C(C2N)=O
reactant | cyanoacetic acid | 0.85 g | C(#N)CC(=O)O | C3H3NO2
reactant | dicyclohexylcarbodiimide | 2.25 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
solvent | triethylamine | 0.9 g | C(C)N(CC)CC | C6H15N
product | 2,2,2-trichloroethyl 2-methyl-7-(2-cyanoacetamido)-3-cephem-4-carboxylate | 3.5 g | CC1S[C@H]2N(C(=C1)C(=O)OCC(Cl)(Cl)Cl)C(C2NC(CC#N)=O)=O | C13H12Cl3N3O4S
